US09102671B2
To a suspensions of ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate (0.27 g, 1.0 mmol) in EtOH (5 mL) was added 6 N KOH (0.3 uL, 2.0 mmol). The reaction was heated to reflux for 3 hours then cooled to room temperature and neutralized to pH 6 with 1M HCl. The resulting solid was filtered and dried under vacuum to yield 5-bromopyrazolo[1,5-a]pyridine-3-carboxylic acid (I-25) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.83 (d, J=7.6 Hz, 1 H), 8.42 (s, 1 H), 8.21 (d, J=2.4 Hz, 1 H), 7.30 (dd, J=2.0, 7.6 Hz, 1 H). MS m/z 240.9, 242.9 (M+1)+.

reactant | ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate | 1.0 mmol, 0.27 g | BrC1=CC=2N(C=C1)N=CC2C(=O)OCC | C10H9BrN2O2
reactant | KOH | 2.0 mmol, 6 N, 0.3 uL | [OH-].[K+]
reactant | HCl | 1M | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5-bromopyrazolo[1,5-a]pyridine-3-carboxylic acid | BrC1=CC=2N(C=C1)N=CC2C(=O)O | C8H5BrN2O2
